Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I tried to kill myself."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per initial psychiatric consult on ___:

Ms. ___ is a ___ year old woman with a history of depression. 
She was brought in by ambulance to ___ emergency department 
after an overdose with acetaminophen and diphenhydramine as a 
suicide attempt. 

On psychiatric interview, Ms. ___ states she has been 
depressed since she was ___, she feels exhausted and "done". She 
has had worsening thoughts of suicide for the past few months. 
She's upset that she is alive now and her suicide attempt 
failed. She had hoped her roommate would come home while she was 
no longer alive. She has refrained from committing suicide in 
the past because she did not want to hurt anyone. She initially 
denies stressors leading to this event but upon further 
questioning she recently failed a drawing class at her 
___, which she discovered about a week ago. This was 
particularly stressful because her life goal is to draw 
professionally.

Over the past month she endorses hypersomnia with poor sleep 
quality, increased appetite gained 15 lbs since ___ (she has 
a history of restrictive behavior but has not engaged in this 
since ___), difficulty concentrating in class, low energy, 
guilt regarding being a burden, hopelessness. She states she 
doesn't care much about art anymore since about the age of ___, 
but especially in college. She states she doesn't try to make 
friends in ___, she doesn't have any close friends.  She 
does not endorse history of manic symptoms, no OCD symptoms, she 
does endorse fleeting visual hallucinations as a child of seeing 
a man, but believes this is in relation to seeing a scary movie 
and hasn't experienced this again since she was ___. She endorses 
panic attacks in which she has dyspnea, shaking, mind racing, 
diaphoretic, headache, tingling in extremities, last one in the 
summer while she was driving on the highway.

 
Past Medical History:
Denies any chronic or acute medical problems 
 
Social History:
___
Family History:
none known, no history of suicide attempts

 
Physical Exam:
Per initial PHYSICAL EXAM:
VS:  T: 98.5 HR: 94  BP: 118/78  resp: 16  SpO2: 100% on RA
weight: 130.2 lbs
Heart: increased rate and regular rhythm, normal S1 and S2, no
murmurs appreciated
Lungs: clear to auscultation bilaterally, no wheezes, rhonchi or
crackles
Abdomen: non-tender to palpation, normoactive bowel sounds x4,
non-distended, no guarding, masses or rebound
Extremities: warm and well perfused, no edema in bilateral lower
extremities
Neuro: pupils reactive to direct and near (4mm-3mm); EOMI;
muscles of facial expression intact and symmetric bilaterally;
shoulder-shrugs symmetric; light touch diffusely intact; 
strength
___ throughout UE and ___

___ STATUS EXAM: 
 *Appearance: appears stated age, wearing hospital gowns and
socks, hair disheveled, appears anxious
 *Behavior: cooperative with interview, good eye contact
 *Speech: regular rate, volume and rhythm
 *Language: fluent in ___
 *Mood: "anxious"
 *Affect: congruent with mood, tearful and dysphoric at times,
reactive
 *Thought process / *associations:  linear, goal directed
 *Thought Content: denies current SI, denies HI, AVH
  *Judgment and Insight: limited/limited

Cognition: 
 *Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): MOYB correctly
 *Orientation: oriented to person, place, month/date/year
 *Memory:  ___ immediate recall, ___ after 5 minutes
 *Fund of knowledge: appears congruent with level of education

Neurological:  
 *station and gait: within normal limits
 *tone and strength: within normal limits

 
Pertinent Results:
___ 10:10PM BLOOD WBC-6.7 RBC-4.29 Hgb-12.0 Hct-35.7 MCV-83 
MCH-28.0 MCHC-33.6 RDW-12.5 RDWSD-38.0 Plt ___
___ 10:10PM BLOOD Neuts-61.6 ___ Monos-9.5 Eos-0.6* 
Baso-0.5 Im ___ AbsNeut-4.11 AbsLymp-1.84 AbsMono-0.63 
AbsEos-0.04 AbsBaso-0.03
___ 10:10PM BLOOD Plt ___
___ 10:10PM BLOOD ___ PTT-30.1 ___
___ 10:10PM BLOOD Glucose-106* UreaN-12 Creat-0.7 Na-137 
K-3.4 Cl-102 HCO3-18* AnGap-20
___ 10:10PM BLOOD ALT-12 AST-18 AlkPhos-63 TotBili-0.2
___ 10:10PM BLOOD Lipase-31
___ 10:10PM BLOOD Albumin-4.5 Calcium-9.7 Phos-2.7 Mg-1.7
___ 10:10PM BLOOD HCG-<5
___ 12:38AM BLOOD Acetmnp-107*
___ 10:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-130* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout.  She was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
#Depression: Ms. ___ reports a long history of depression that 
acutely worsened after failing a drawing class at ___. 
Prior to her SA, she was experiencing symptoms of hypersomnia, 
overeating, anhedonia, amotivation, low energy, poor 
concentration, and hopelessness. On initial admission interview, 
pt was dysthymic, tearful and regretful of her suicide attempt 
given the effect it had on her family and friends.  She did 
report that she still felt very hopeless and depressed. 
Diagnostically her current presentation is most consistent with 
major depressive disorder with atypical features (hypersomnia, 
overeating). Prior to admission, she had been taking Celexa 10mg 
as an outpatient for about a year. She said that initially she 
felt like it was helping but she no longer felt that way 
anymore.  Given her ongoing symptoms of depression, the team and 
patient decided to increase the dose to 20mg. The team discussed 
augmentation of her Celexa with Wellbutrin to provide 
synergystic benefits.  She was started on Wellbutrin 75mg. She 
tolerated the medication well and denied any side effects. 

During her admission, she was seen by a psychologist who 
conducted the Personality Assessment Inventory. Most noteable, 
pt scored high on depression and suicidality. It was also noted 
that she has a hard time relating to others and had a low self 
esteem.  The results were discussed with the patient, who was in 
agreement with the findings. 

Therapeutic interventions focused on the degree of commitment 
and lethality of her suicide attempt as well as the length of 
time she has been experiencing symptoms of depression.  ___ 
family was involved throughout the process and were instrumental 
in aftercare planning.  Over the course of her admission, 
___ affect brightened.  Upon discharge she denied any 
suicidal or self injurious thoughts. She is discharged into the 
care of her parents. She was determined to be safe for discharge 
on ___. 

GENERAL MEDICAL CONDITIONS:
#No acute or chronic medical conditions

PSYCHOSOCIAL:
#) GROUPS/MILIEU: Pt was consistent in her group participation.  
She was encouraged to participate in unit’s groups therapy 
opportunities. She was active in the milieu particularly with 
other patients around her same age. Use of coping skills and 
mindfulness/relaxation methods were encouraged.

#) COLLATERAL CONTACTS:
Pt has no outside treaters.  She has a PCP in ___ who 
does not know the patient very well. 

#) FAMILY INVOLVEMENT:
___ parents were involved through the entire length of her 
stay. They visited her daily during visiting hours.  Multiple 
family meetings were conducted with team including social work, 
nursing and physicians.  During the family meeting the social 
work team met with ___ and ___ parents to discuss recent 
events leading to her hospitalization and feelings from both 
herself and her parents regarding these events. Both parents 
were able to express their concern, surprise and gratefulness 
that she is getting help. They asked appropriate questions and 
were open with ___ and the team.  ___ noted that her 
family is a strong sense of support for her and she expressed a 
desire to go home with them back to ___. Her parents 
were extremely supportive and instrumental in discharge planning 
and assuring ___ be able to follow through with her 
appointments and the partial program. 

#) INTERVENTIONS:
 - Medications: Increased celexa to 20mg and started Wellbutrin 
75mg 
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy
 - Coordination of aftercare with Mass Art and ___ 
Partial ___ 

INFORMED CONSENT:
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting Wellbutrin, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and all questions were answered 
appropriately.  The patient appeared able to understand and 
consented to begin the medication.

RISK ASSESSMENT:
Ms. ___ is at low imminent risk of harm to self. 

#) Chronic/Static Risk Factors:
- Chronic mental illness, suicide attempt, adolescent age, 
family history of mental illness, twin status, history of self 
injury 

#) Modifiable Risk Factors:
- Suicidal ideation - this risk was mitigated by increasing 
celexa and starting Wellbutrin.  
- Self injurious behavior -  this risk was mitigated by 
education the patient on more productive coping skills for 
stress 
- No outside providers - this risk was mitigated by setting up a 
partial program for follow up from hospitalization
- Limited coping skills - this risk was mitigated through groups 
focused on productive coping skills

#) Protective Factors:
- Help-seeking nature - pt motivated for change
- Medication compliant - no issues with taking medication
- Future-oriented viewpoint - pt motivated to go back to school 
and pursue drawing
- No history of substance use disorder - pt has no history of 
drug or alcohol abuse
- Strong social supports - pt has multiple friends and is well 
liked by her friends.

PROGNOSIS:
Good - pt has multiple protective factors.  She is smart, 
motivated, and willing to engage in aftercare. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 (One) tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0
2. BuPROPion 75 mg PO DAILY 
RX *bupropion HCl 75 mg 1 (One) tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
*VS:  BP:126/82   HR:94  temp:98.2  resp:16   O2 sat:100%  
Cognition: 
 Wakefulness/alertness: alert, awake
 *Attention (digit span, MOYB): maintains appropriate attention 
throughout exam 
 *Orientation: person, place, date, situation 
 *Memory: recalls aspects of past few days
 *Fund of knowledge: appropriate for age and education level
 *Speech: normal rate, rhythm, prosody
 *Language: fluent ___, no paraphasic errors 
 
Mental Status:
 *Appearance: well nourished, appears stated age, good grooming, 
nasal piercing, dressed in jeans and sweatershirt.
 Behavior: calm, cooperative, engaged in interview, good eye
contact
 *Mood and Affect: 'better, good'; euthymic, full range, 
congruent with mood
*Thought process / *associations:  linear, logical, 
goal-oriented, associations intact
 *Thought Content: Denies SI/HI/AVH; Denies any urge to cut. no 
evidence of delusions or paranoia, does not appear to be 
responding to internal stimuli. 
 *Judgment and Insight: fair/fair

 
Discharge Instructions:
You were hospitalized at ___ for depression and a suicide 
attempt.  We adjusted your medications, and you are now ready 
for discharge and continued treatment in partial program.

- Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- Please continue all medications as directed.
- Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
- Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___